US04673746
To a mixture of 3.9 g of AlCl3 and 4.67 g of 2,3-dichloroanisole in 70 ml of 1,2-dichloroethane at -10° C., 5 g of o-methoxybenzoyl chloride is added dropwise. The mixture is stirred for 2.5 hours and is gradually warmed to 5° C. The reaction mixture is poured into concentrated HCl and ice. The mixture is stirred one half hour to decompose the complex. The aqueous layer is extracted with additional organic solvent. The combined organic layers are washed until neutral, dried over Na2SO4 and evaporated to give an oil which solidifies on trituration with hexane. The crude product is recrystallized from 95% ethanol giving 2,3-dichloro-2',4-dimethoxybenzophenone, mp 94°-96° C.

reactant | AlCl3 | 3.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,3-dichloroanisole | 4.67 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | o-methoxybenzoyl chloride | 5 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | hexane | CCCCCC | C6H14
product | 2,3-dichloro-2',4-dimethoxybenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)OC)C=CC(=C1Cl)OC | C15H12Cl2O3
